US08492414B2
(3-(4-Chloro-2-methoxyphenyl)-1,2,4-thiadiazol-5-yl)methanol (VI)
To a solution of ethyl 3-(4-chloro-2-methoxyphenyl)-1,2,4-thiadiazole-5-carboxylate (0.31 g, 1.04 mmol) in EtOH (15 ml) was added sodium borohydride (0.098 g, 2.59 mmol) portion wise. The resulting reaction mixture was stirred at room temperature for 2 h. After the completion of the reaction (TLC monitoring), the reaction mass was cooled to 0° C., quenched it with 2 ml of water and concentrated under vacuum. Added water (50 ml) and extracted with ethyl acetate (3×50 ml). The combined organic layer was dried over Na2SO4, filtered and concentrated under vacuum to get the product (0.22 g, 92%) that was carried forward to the next step without further purification.

reactant | ethyl 3-(4-chloro-2-methoxyphenyl)-1,2,4-thiadiazole-5-carboxylate | 1.04 mmol, 0.31 g | ClC1=CC(=C(C=C1)C1=NSC(=N1)C(=O)OCC)OC | C12H11ClN2O3S
reactant | sodium borohydride | 2.59 mmol, 0.098 g | [BH4-].[Na+]
solvent | EtOH | 15 ml | CCO | C2H6O
product | (3-(4-Chloro-2-methoxyphenyl)-1,2,4-thiadiazol-5-yl)methanol | 0.22 g, 92% | ClC1=CC(=C(C=C1)C1=NSC(=N1)CO)OC | C10H9ClN2O2S
